US04431807
A solution of 8-amino-6-methoxy-4-methyl-8-(3-trifluoromethylphenoxy)quinoline (5.26 g, 15 mmol), 1-iodo-4-phthalimidopentane (5.26 g, 15 mol) in 2-ethoxyethanol (25 mL) was heated at 110° for 1.5 hour after which time an additional 7.5 mmol of iodophthalimidopentane and triethylamine were added. After stirring 1.5 hour an additional 7.5 mmol of each reagent was added. After stirring an additional 4.5 hours the reaction mixture was diluted with CH2Cl2 and the organic layer was washed with water (×3). After drying (K2CO3) the organic layer was concentrated to dryness and the residue was chromatographed over a silica gel column (33 mm×500 mm). Elution with chloroform afforded the intermediate phthalimide (6.65 g, 79%) which could be crystallized from EtOH to give mp 122°-124°.

reactant | 8-amino-6-methoxy-4-methyl-8-(3-trifluoromethylphenoxy)quinoline | 15 mmol, 5.26 g | NC1(CC(=CC=2C(=CC=NC12)C)OC)OC1=CC(=CC=C1)C(F)(F)F | C18H17F3N2O2
reactant | 1-iodo-4-phthalimidopentane | 15 mol, 5.26 g | ICCCC(C)N1C(C=2C(C1=O)=CC=CC2)=O | C13H14INO2
reactant | iodophthalimidopentane | 7.5 mmol | IC(CCCC)N1C(C=2C(C1=O)=CC=CC2)=O | C13H14INO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | 2-ethoxyethanol | 25 mL | C(C)OCCO | C4H10O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | phthalimide | 6.65 g, 79% | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
